US07728023B2
methyl 4-bromo-1H-indole-3-carboxylate
To a methanol (40 mL) solution of 4-bromo-1H-indole-3-carboaldehyde [Chem. Pharm. Bull. 33,3696 (1985)] (395 mg), sodium cyanide (432 mg) and manganese dioxide (15.3 g) were sequentially added and the mixture was stirred overnight at room temperature. To the reaction mixture, ethyl acetate (50 mL) was added and insoluble matters were removed. The filtrate was concentrated and water was added to the residue, and then the solution was extracted with ethyl acetate. The organic layer was washed in turn with water and saturated saline, dried and then concentrated. The residue was washed with diisopropyl ether and n-hexane and then concentrated to obtain the titled compound having the following physical properties (375 mg).

reactant | methanol | 40 mL | CO | CH4O
reactant | 4-bromo-1H-indole-3-carboaldehyde | 395 mg | BrC1=C2C(=CNC2=CC=C1)C=O | C9H6BrNO
reactant | sodium cyanide | 432 mg | [C-]#N.[Na+]
catalyst | manganese dioxide | 15.3 g | [O-2].[O-2].[Mn+4]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-bromo-1H-indole-3-carboxylate | BrC1=C2C(=CNC2=CC=C1)C(=O)OC | C10H8BrNO2
